US07396525B2
Stage 2: Synthesis of {[(1-methylethylidene)amino]oxy}acetic acid
7.3 g of acetone oxime, 14.2 g of chloroacetic acid and 2% of tetrabutylammonium bromide are placed in 80 ml of toluene. An aqueous sodium hydroxide solution (10 g of sodium hydroxide dissolved in 150 ml of water) is added dropwise. The reaction medium is stirred for 1 h and then the toluene is evaporated under vacuum. The residue is then acidified with concentrated hydrochloric acid to pH 2.5, then washed with water and extracted twice with ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is evaporated to give the expected product.

reactant | acetone oxime | 7.3 g | CC(C)=NO | C3H7NO
reactant | chloroacetic acid | 14.2 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 150 ml, 10 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | {[(1-methylethylidene)amino]oxy}acetic acid | CC(C)=NOCC(=O)O | C5H9NO3
